Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Loss of consciousness 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with a PMH of multi-substance use disorder who presents with
LOC and seizure-like activity after 1D of Xanax withdrawal.

Pt has been taking 8 mg Xanax daily for ___ years and stopped ___
at 8 AM. He was prescribed 6 mg of Xanax daily by his prescriber
in ___. Does not have a PCP yet in ___. He stopped
because he moved from ___ to ___ to live with his 
Aunt,
with the understanding that he would not abuse any substances.
His Aunt found out that he was using Xanax and so he gave her 
his
supply. 

He was feeling anxious today but otherwise well and then 
suddenly
collapsed on the street, half way to his AA meeting. Denies
prodromal symptoms such lightheadedness, dizziness, auras.
Doesn't know how long he was unconscious, bystanders report that
they saw pt fall from standing position, land on knees then 
chin,
followed by seizure-activity for 3 minutes. EMS found pt sitting
on the sidewalk, AOx2 with laceration to chin. 

Pt has had episodes of fainting/possible seizures in the past.
His last episode of fainting was ___ years ago at ___, this was
not iso withdrawal. Doesn't recall symptoms prior to fainting.
Prior to this episode he has had ___ seizure-like episodes iso
withdrawing from cocaine or Xanax (first episode ___. Pt has
been seen by a neurologist in ___ with imaging and EEG
studies completed w/o evidence of epilepsy. He has never taken
AED.

Pt reports that in the ED he initially had L shoulder pain, 
which
has resolved and bilateral knee pain at sites of knee scraps,
which is persistent but mild. No pain with ROM of knees,
shoulders/arms. He is interested in going to a detox program.
 
Past Medical History:
Polysubstance use disorder (cocaine, heroin, Xanax)
Anxiety 
 
Social History:
___
Family History:
Mother- healthy
MGM- heart attack (___)
Father- alcoholism
PGM- leukemia

 
Physical Exam:
ADMITTING PHYSICAL EXAM
========================
VITALS: 97.5 PO 122 / 71 66   96 Ra 
GEN: NAD, sitting up in bed
HEENT: Large pupils, equally reactive, EOMI, OP clear. Chin w/
suture in place 
NECK: Supple
CARD: RRR, S1 + S2 present, no mrg
RESP: CTAB, no crackles, wheezes
ABD: SNTND, +BS, no rebound/guarding
EXT: WWP, no ___ edema. L shoulder ROM in tact, no TTP. L/R knee
ROM in tact, superficial scabbed-scrapes
NEURO: CNII-XII intact, ___ strength in ___

DISCHARGE PHYSICAL EXAM 
========================
24 HR Data (last updated ___ @ 1546)
    Temp: 98.1 (Tm 98.1), BP: 112/67 (105-122/65-72), HR: 64 
(58-81), RR: 18 (___), O2 sat: 96% (96-99), O2 delivery: Ra 

GEN: NAD, sitting up in bed
HEENT: abrasions + laceration on chin, sclera anicteric, no
tongue lesion 
CARD: RRR, S1 + S2 present, no mrg
RESP: CTAB, no crackles or wheezes
ABD: SNTND, +BS, no rebound/guarding
EXT: WWP, no ___ edema. 
NEURO: A&Ox3. No tremor. Steady gait.
 
Pertinent Results:
ADMISSION LABS 
===============
___ 09:32PM BLOOD WBC-13.9* RBC-4.77 Hgb-14.2 Hct-41.6 
MCV-87 MCH-29.8 MCHC-34.1 RDW-12.2 RDWSD-39.3 Plt ___
___ 09:32PM BLOOD Neuts-82.0* Lymphs-12.0* Monos-4.9* 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-11.38* AbsLymp-1.66 
AbsMono-0.68 AbsEos-0.06 AbsBaso-0.04
___ 09:32PM BLOOD Plt ___
___ 09:32PM BLOOD Glucose-103* UreaN-14 Creat-0.9 Na-138 
K-4.3 Cl-101 HCO3-26 AnGap-11

DISCHARGE LABS
===============

___ 09:32PM BLOOD WBC-13.9* RBC-4.77 Hgb-14.2 Hct-41.6 
MCV-87 MCH-29.8 MCHC-34.1 RDW-12.2 RDWSD-39.3 Plt ___
___ 09:32PM BLOOD Plt ___
___ 09:32PM BLOOD Glucose-103* UreaN-14 Creat-0.9 Na-138 
K-4.3 Cl-101 HCO3-26 AnGap-11

STUDIES
=========
TTE (___)
IMPRESSION: No structural cardiac cause of syncope identified. 
Normal biventricular cavity sizes, regional/global systolic 
function. No valvular pathology or pathologic flow identified. 
Normal estimated pulmonary artery systolic pressure.

CTh (___)
IMPRESSION:  
1. No acute intracranial abnormality on noncontrast head CT.  
Specifically no large territory infarct or intracranial 
hemorrhage. 
2. If clinically indicated and there are no contraindications, 
MRI would be more sensitive for seizure focus. 
3. Additional findings described above. 

 
Brief Hospital Course:
==================
SUMMARY STATEMENT
==================
Mr. ___ is a pleasant ___ yo gentleman w/ pmhx of 
polysubstance abuse (heroin, cocaine, and Xanax) and anxiety who 
presented initially ___ with loss of consciousness and concern 
for likely bnzodiazepine withdrawl seizure.

=====================
TRANSITIONAL ISSUES 
=====================
[] Pt needs continued benzodiazepine taper w/ valium. This was 
written on for a week until seen by PCP ___ ___ 
Diazepam 8mg PO Q6H ___
Diazepam 6mg PO Q6H ___ 
Diazepam 4mg PO Q6H ___ 
Rest of taper to be decreased by 20% every ___ days per PCP 
following appointment on ___ 
[] Pt needs intake for dual-diagnosis outpatient programs once 
he receives insurance approval 
[] Consider SSRI for maintenance treatment in the future 
[] Started on hydroxyzine to help with anxiety as he tapers off 
of diazepam

Acute Issues
=============
#LOC, likely ___ seizure from benzodiazepine withdrawal
Pt presented w/ LOC while walking down the street, w/ possible 
tonic-clonic seizure-like activity per bystanders. Pt reports 
post-event confusion, until arrived at hospital. Reportedly 
taking ___ of Xanax daily for ___ years, and suddenly stopped 
this. Pt notes previous episode of syncope, ___ years ago, w/ 
possible LOC while walking in house. Given this in addition to 
an ECG w/ borderline LVH criteria and partial LBBB, TTE was done 
and there were no signs of HOCM. Suspecting most likely 
benzodiazepine withdrawal and associated seizure. 

#benzodiazepine use disorder
#benzodiazepine withdrawal 
#polysubstance use 
#Anxiety 
Reportedly taking ___ of Xanax daily for ___ years, had been 
prescribed 2mg by physician in ___. He is interested in 
dual-diagnosis outpatient programs, however was unable to be 
enrolled given insurance issues. He was given many resources and 
has multiple options for intake appointments once his insurance 
is resolved. Recently recovering from heroin use, last used 5 mo 
ago. In the interim he was started on hydroxyzine for anxiety at 
this time. 
- Continue hydroxyzine and diazepam taper as above 

#Chin laceration 
Pt had chin lac on presentation, had 5 stitches placed ___ in 
ED. These were removed prior to discharge on ___ after 5 days 
and steristrips were placed.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 6 mg PO DAILY 

 
Discharge Medications:
1.  Diazepam 8 mg PO Q6H Duration: 8 Doses 
This is dose # 1 of 3 tapered doses
RX *diazepam 2 mg 4 tablets by mouth every six (6) hours Disp 
#*92 Tablet Refills:*0 
2.  Diazepam 6 mg PO Q6H Duration: 12 Doses 
This is dose # 2 of 3 tapered doses 
3.  Diazepam 4 mg PO Q6H Duration: 8 Doses 
This is dose # 3 of 3 tapered doses   
4.  HydrOXYzine 25 mg PO BID 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth twice a day Disp 
#*14 Tablet Refills:*0 
4.  Nicotine Lozenge 2 mg PO Q1H:PRN Craving  
RX *nicotine (polacrilex) [Nicorette] 2 mg take 2mg q1h Disp 
#*72 Lozenge Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
Benzodiazepine Withdrawal 

===================
SECONDARY DIAGNOSIS
===================
Anxiety 
Polysubstance abuse 
Benzodiazepine Use disorder 
Loss of Consciousness 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

Please see below for more information on your hospitalization. 
It was a pleasure taking part in your care here at ___! 

WHY WERE YOU ADMITTED TO THE HOSPITAL? 
- You were admitted because you lost consciousness most likely 
from a seizure due to benzodiazepine (Xanax) withdrawl 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL? 
- You were started on a different benzodiazepine (Valium, also 
known as diazepam) to help with your withdrawl and will continue 
to taper this medication 
- You had an ultrasound of your heart to rule out other causes 
of why you passed out, it was normal
- You were seen by the psychiatry and social work teams to help 
offer resources for outpatient psychiatry and rehab 
- You had stiches places in your chin and removed ___ 

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL? 
- Follow-up with your new PCP ___ ___. Your new PCP can 
prescribe the rest of your taper. IT IS VERY IMPORTANT THAT YOU 
GO TO THIS APPOINTMENT.
- Only take your valium as directed. Have your aunt hold on to 
the prescription bottles to help reduce the temptation to use 
the valium incorrectly.
- Attend all of your intake appointments.
- Here are some resources to consider if you need help before 
you get set up with an outpatient psychiatrist :
- Substance Abuse Referral Line at ___ for 
information about treatment options
- BEST office at ___ for assistance with 
outpatient stabilization.

We wish you all the best! 
- Your ___ Care Team

Taper:
Diazepam 8mg PO Q6H ___
Diazepam 6mg PO Q6H ___ 
Diazepam 4mg PO Q6H ___ 
 
Followup Instructions:
___